US08022075B2
6-Iodo-2-[4-(1H-3-pyrazolyl)phenyl]1,3-benzoxazole
Subsequently, tert-butyl 3-[4-(6-iodo-1,3-benzoxazol-2-yl)phenyl]-1H-1-pyrazolecarboxylate (49 mg) was dissolved in a mixture of tetrahydrofuran (2 mL) and ethanol (2 mL), and 6N hydrochloric acid (500 μL) was added to the solution, followed by stirring at 80° C. for 2 hours. The reaction mixture was alkalified with 1N sodium hydroxide, followed by stirring at 80° C. for 1 hour. The reaction mixture was concentrated under reduced pressure, followed by drying. The thus-obtained white solid was recovered through filtration, and washed sequentially with water and ethanol, followed by drying under reduced pressure, to thereby yield the title compound (26 mg).

reactant | tert-butyl 3-[4-(6-iodo-1,3-benzoxazol-2-yl)phenyl]-1H-1-pyrazolecarboxylate | 49 mg | IC1=CC2=C(N=C(O2)C2=CC=C(C=C2)C2=NN(C=C2)C(=O)OC(C)(C)C)C=C1 | C21H18IN3O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | hydrochloric acid | 6N, 500 μL | Cl | ClH
product | 6-Iodo-2-[4-(1H-3-pyrazolyl)phenyl]1,3-benzoxazole | 26 mg | IC1=CC2=C(N=C(O2)C2=CC=C(C=C2)C2=NNC=C2)C=C1 | C16H10IN3O
